US04605672
3-Trifluoromethyl-4'-[2-(diethylamino)-ethoxy]-α-ethyl-benzhydrol
To 250 ml. of a 0.4 molar solution of 3-trifluoromethylphenyl-lithium in ether a solution of 6.3 g. of 4'-[2-(diethylamino)-ethoxy]-propionphenone in 60 ml. of dry ether is added dropwise, under argon atmosphere, at -30° C., and the reaction mixture is stirred at room temperature for two hours. After cooling the reaction mixture is decomposed with a saturated, aqueous ammonium chloride solution, and the aqueous phase is extracted with ether. The ethereal phases are combined, washed to neutral with water and dried over anhydrous magnesium sulfate. Ether is distilled off under reduced pressure. The residue is chromatographed on a silica gel column with a 7:3 mixture of benzene and ethyl acetate. The solvent mixture is distilled in vacuo, and the residue is crystallized from n-hexane. 3.2 g. of the title compound are obtained, melting at 74° to 75° C.

reactant | 3-trifluoromethylphenyl-lithium | FC(C=1C=C(C=CC1)[Li])(F)F
reactant | 4'-[2-(diethylamino)-ethoxy]-propionphenone | C(C)N(CCOC1=CC=C(C=C1)C(CC)=O)CC | C15H23NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 3-Trifluoromethyl-4'-[2-(diethylamino)-ethoxy]-α-ethyl-benzhydrol | FC(C=1C=C(C(C2=CC=C(C=C2)OCCN(CC)CC)(O)CC)C=CC1)(F)F | C22H28F3NO2
